US08871797B2
SnCl2.2H2O (0.15 g, 0.66 mmol, 4.0 eq.) was added to a stirred solution of 5-(2-methoxy-5-nitro-phenyl)-1-methyl-3-trifluoromethyl-1H-pyrazole, see Example 1.99, (0.05 g, 0.16 mmol) in EtOH (2.0 mL). The mixture was stirred at reflux for 4 hrs and EtOH was removed under vacuum. The resulting solid was dissolved in EtOAc and 1N NaOH was added until the pH was adjusted to 6. The mixture was stirred overnight and filtered through celite. The aqueous phase was extracted with EtOAc (3×50 mL). The combined organic phase was dried over anhydrous MgSO4, filtered and evaporated to give 4-methoxy-3-(2-methyl-5-trifluoromethyl-2H-pyrazol-3-yl)-phenylamine (0.04 g, 0.15 mmol, 97% yield): LCMS m/z (%)=272 (M+H, 100). 1H NMR (400 MHz, CDCl3) δ: 6.82 (dd, J=16.0, 4.0 Hz, 1H), 6.79 (dd, J=10.0, 2.0 Hz, 1H), 6.61 (d, 1H), 6.46 (s, 1H), 3.76 (s, 3H), 3.74 (s, 3H).

reactant | SnCl2.2H2O | 0.66 mmol, 0.15 g, 4.0 eq. | O.O.Cl[Sn]Cl
reactant | 5-(2-methoxy-5-nitro-phenyl)-1-methyl-3-trifluoromethyl-1H-pyrazole | COC1=C(C=C(C=C1)[N+](=O)[O-])C1=CC(=NN1C)C(F)(F)F | C12H10F3N3O3
solvent | EtOH | 2.0 mL | CCO | C2H6O
product | 4-methoxy-3-(2-methyl-5-trifluoromethyl-2H-pyrazol-3-yl)-phenylamine | 0.15 mmol, 0.04 g, 97% yield | COC1=C(C=C(C=C1)N)C=1N(N=C(C1)C(F)(F)F)C | C12H12F3N3O
